US07247625B2
To a stirred solution of 4,4-diethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-ylboronic acid (4.85 g, 19.50 mmol) in THF (100 mL) at 0° C. was added sodium hydride (3.12 g-60%, 78 mmol). After 10 minutes, methyl iodide (9.7 mL, 156.0 mmol) was added and the reaction was allowed to warm to room temperature After one week the reaction was quenched with ammonium chloride solution (sat.) and extracted with ethyl acetate several times. The organic layers were washed with brine, dried over magnesium sulfate and concentrated. Trituration with ether gave 4,4-diethyl-1-methyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-ylboronic acid as a yellow solid (3.97 g, 77%). 1H NMR (DMSO-d6): δ 8.03 (s, 2H), 7.78 (dd, J=8.2, 1.3 Hz, 1H), 7.60 (d, J=1.3 Hz, 1H), 7.05 (d, J=8.3 Hz, 1H), 3.28 (s, 3H), 1.99 (m, 4H), 0.78 (t, J=7.4 Hz, 6H). MS (ESI) m/z 264 ([M+H]+); MS (ESI) m/z 262 ([M−H]−); Anal. calcd for C13H18BNO4: C, 59.35; H, 6.90; N, 5.32. Found: C, 58.97; H, 6.98; N, 4.73.

reactant | 4,4-diethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-ylboronic acid | 19.50 mmol, 4.85 g | C(C)C1(OC(NC2=C1C=C(C=C2)B(O)O)=O)CC | C12H16BNO4
reactant | sodium hydride | 78 mmol | [H-].[Na+]
reactant | methyl iodide | 156.0 mmol, 9.7 mL | CI | CH3I
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4,4-diethyl-1-methyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-ylboronic acid | 3.97 g, 77% | C(C)C1(OC(N(C2=C1C=C(C=C2)B(O)O)C)=O)CC | C13H18BNO4
